US08217069B2
To a solution of 4-bromo-2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitrobenzene (0.82 g) in 1,4-dioxane (40 mL) were added allyltri(n-butyl)tin (0.74 mL) and tetrakis(triphenylphosphine)palladium(0) (0.46 g), and the reaction vessel was equipped with a reflux condenser, and the reaction mixture was stirred at 120° C. under an argon atmosphere overnight. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=9/1−3/1) to give 4-allyl-2-chloro-5-(2,3-difluoro-6-methoxybenzyl-oxy)-1-nitrobenzene (0.68 g). This material was dissolved in tetrahydrofuran (20 mL). To the solution were added water (10 mL), 50% aqueous N-methylmorpholine-N-oxide solution (0.96 mL) and osmium(VIII) oxide, microencapsulated (about 10%, 0.23 g), and the mixture was stirred at room temperature for 4 days. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1−1/4) to give 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-(2,3-dihydroxy-propyl)-1-nitrobenzene (0.29 g). The title compound was prepared in a similar manner to that described in Reference Example 170 using this material instead of 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-(1,3-dihydroxy-2-propoxy)-1-nitrobenzene.

reactant | 4-bromo-2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitrobenzene | 0.82 g | BrC1=CC(=C(C=C1OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-])Cl | C14H9BrClF2NO4
reactant | allyltri(n-butyl)tin | 0.74 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-allyl-2-chloro-5-(2,3-difluoro-6-methoxybenzyl-oxy)-1-nitrobenzene | 0.68 g | C(C=C)C1=CC(=C(C=C1OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-])Cl | C17H14ClF2NO4
